US07078540B1
In the same manner as in Reference Example 1, ethyl 6-[N-(2,4-difluorophenyl)sulfamoyl]-1-cyclohexene-1-carboxylate (455 mg) and (2,4-difluorophenyl)-methanethiol (421 mg) were reacted to give ethyl 6-[(2,4-difluorobenzyl)sulfanyl]-1-cyclohexene-1-carboxylate (185 mg) as a colorless oil.

reactant | ethyl 6-[N-(2,4-difluorophenyl)sulfamoyl]-1-cyclohexene-1-carboxylate | 455 mg | FC1=C(C=CC(=C1)F)NS(=O)(=O)C1CCCC=C1C(=O)OCC | C15H17F2NO4S
reactant | (2,4-difluorophenyl)-methanethiol | 421 mg | FC1=C(C=CC(=C1)F)CS | C7H6F2S
product | ethyl 6-[(2,4-difluorobenzyl)sulfanyl]-1-cyclohexene-1-carboxylate | 185 mg | FC1=C(CSC2CCCC=C2C(=O)OCC)C=CC(=C1)F | C16H18F2O2S
